US04810713
4-[Bis(4-methoxyphenyl)methyl]pyridine
Anisole, 108.13 g (1.0 mole) was cooled in an ice bath. Concentrated sulfuric acid, 115.3 ml (2.0 mole) was added while stirring the mixture in an ice bath. The temperature rose to 55° C. The reaction was then cooled in the ice bath. To this solution was added 4-pyridine carboxaldehyde, 53.5 g (0.5 mole). The temperature rose to 95° C. and further cooling and stirring brought the temperature down to 20° C. The reaction mixture was heated to 70° C. for 31/2 hr. The red gel was made alkaline with 50% sodium hydroxide-ice mix. The alkaline phase was extracted with toluene and the toluene extracted with a saturated sodium chloride solution. The product crystallized from the toluene solution while standing at room temperature. The white solid can be recrystallized from hot hexane-isopropyl alcohol.

reactant | Anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4-pyridine carboxaldehyde | N1=CC=C(C=C1)C=O | C6H5NO
product | 4-[Bis(4-methoxyphenyl)methyl]pyridine | COC1=CC=C(C=C1)C(C1=CC=NC=C1)C1=CC=C(C=C1)OC | C20H19NO2
